US05864039
4-Amino-5-chloro-N-((1-(3-(3,4-dichlorobenzylamino)propyl)-piperidin-4-yl)methyl)-2-methoxybenzamide (2.0 g) as starting compound, acetaldehyde (0.27 ml) and sodium cyanoborohydride (0.3 g) were reacted and treated in the same manner as in Example 136 to give 0.7 g of 4-amino-5-chloro-N-((1-(3-(N-(3,4-dichlorobenzyl)-N-ethylamino)propyl)-piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-N-((1-(3-(3,4-dichlorobenzylamino)propyl)-piperidin-4-yl)methyl)-2-methoxybenzamide | 2.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCNCC2=CC(=C(C=C2)Cl)Cl)C=C1Cl)OC | C24H31Cl3N4O2
reactant | acetaldehyde | 0.27 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.3 g | C(#N)[BH3-].[Na+]
product | 4-amino-5-chloro-N-((1-(3-(N-(3,4-dichlorobenzyl)-N-ethylamino)propyl)-piperidin-4-yl)methyl)-2-methoxybenzamide | 0.7 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCN(CC)CC2=CC(=C(C=C2)Cl)Cl)C=C1Cl)OC | C26H35Cl3N4O2
